US04849421
To a solution of 1.8 g of 2-(4-chlorophenyl)-10-fluoro-5,6-dihydro-[1]benzothiepino[5,4-c]pyridazin-3(2H)one, prepared in Example 22, in 20 ml of acetic acid is added 1.3 ml of 35% hydrogen peroxide with stirring at room temperature and furthermore stirred for 5 hours at the same temperature. To the resultant mixture is added water, and the precipitated crystals are collected by filtration and recrystallized from dimethylformamide-water to give 1.3 g of 2-(4-chlorophenyl)-10-fluoro-5,6-dihydro[1]benzothiepino[5,4-c]pyridazin-3(2H)-one 7-oxide, melting at 233°-235° C. with decomposition.

reactant | 2-(4-chlorophenyl)-10-fluoro-5,6-dihydro-[1]benzothiepino[5,4-c]pyridazin-3(2H)one | 1.8 g | ClC1=CC=C(C=C1)N1N=C2C(=CC1=O)CCSC1=C2C=C(C=C1)F | C18H12ClFN2OS
reactant | hydrogen peroxide | 1.3 ml | OO | H2O2
reactant | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-(4-chlorophenyl)-10-fluoro-5,6-dihydro[1]benzothiepino[5,4-c]pyridazin-3(2H)-one 7-oxide | 1.3 g | ClC1=CC=C(C=C1)N1N=C2C(=CC1=O)CCS(C1=C2C=C(C=C1)F)=O | C18H12ClFN2O2S
